US05561101
2-chloro-6-(4,6-dimethoxy-2-pyrimidinylcarbonyl)-benzoic acid dimethylamide (Table C, cpd. no. 57)
1.0 g of 7-chloro-3-cyano-3-(4,6-dimethoxy-2-pyrimidinyl)phthalide is dissolved in 15 ml of THF. 0.7 ml of a 40% aqueous dimethylamine solution is then added via syringe whereupon the solution darkens. Stirring is continued at R.T. for 15 minutes and the mixture diluted with water and partitioned between ethyl acetate and water. The organic phase is separated, washed with 2N H2SO4, then brine, dried and concentrated. The residue is purified on silica gel, eluant 200 ml of 50% ethyl acetate/hexane then 100% ethyl acetate. Fractions 12 to 15 yielded the title compound, m.p. 141°-142° C.

reactant | 7-chloro-3-cyano-3-(4,6-dimethoxy-2-pyrimidinyl)phthalide | 1.0 g | ClC=1C=CC=C2C(OC(=O)C12)(C1=NC(=CC(=N1)OC)OC)C#N | C15H10ClN3O4
reactant | dimethylamine | CNC | C2H7N
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 2-chloro-6-(4,6-dimethoxy-2-pyrimidinylcarbonyl)-benzoic acid dimethylamide | CN(C(C1=C(C=CC=C1C(=O)C1=NC(=CC(=N1)OC)OC)Cl)=O)C | C16H16ClN3O4
